US07081463B2
1-bromo-acenaphthene
Acenaphthen-1-ol (88 mol) was dissolved in diethyl ether (150 mL) and cooled down to 0° C. Phosphorous tribromide (3.2 mL, 35 mmol) was then added slowly under nitrogen atmosphere. The reaction mixture was stirred for 30 minutes at room temperature and cooled to 0° C. The reaction mixture was partitioned with water and diethyl ether. The organic layer was dried over Na2SO4, filtered and the solvent evaporated in vacuo to yield the title compound as a yellow solid.

reactant | Acenaphthen-1-ol | 88 mol | C1(CC2=CC=CC3=CC=CC1=C23)O | C12H10O
reactant | Phosphorous tribromide | 35 mmol, 3.2 mL | P(Br)(Br)Br | Br3P
solvent | diethyl ether | 150 mL | C(C)OCC | C4H10O
product | 1-bromo-acenaphthene | BrC1CC2=CC=CC3=CC=CC1=C23 | C12H9Br
